US07183415B2
4′-chloro-N-{3-[(diethylamino)methyl]-6-methoxy-7-quinolinyl}[1,1′-biphenyl]-4-carboxamide
4′-Chloro[1,1′-biphenyl]-4-carboxylic acid (100 mg, 0.430 mmol) was dissolved in tetrahydrofuran (5 ml). To the reaction solution were added oxalyl chloride (0.0375 ml, 0.430 mmol) and one drop of DMF, and the mixture was stirred at room temperature for 1.5 hrs. The reaction solution was concentrated under reduced pressure and the obtained pale-brown crystals were dissolved in DMF (1 ml). Thereto were added a solution of 3-[(diethylamino)methyl]-6-methoxy-7-quinolinylamine (111 mg, 0.430 mmol) obtained in Reference Example 13 in DMF (1 ml) and triethylamine (0.0719 ml, 0.516 mmol), and the mixture was stirred at room temperature for 4 hrs. Ethyl acetate (20 ml) was added to the reaction solution, and the mixture was washed with a mixed solution of aqueous potassium carbonate solution (10 ml) and saturated brine (5 ml), and then with a mixed solution of saturated brine (10 ml) and water (10 ml). The organic layer was purified by NH-silica gel column, and the precipitated crystals were washed with ethyl acetate:isopropyl ether=2:1. The crystals were collected by filtration and dried to give the title compound (27.5 mg) as pale-yellow crystals.

reactant | 4′-Chloro[1,1′-biphenyl]-4-carboxylic acid | 0.430 mmol, 100 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | oxalyl chloride | 0.430 mmol, 0.0375 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[(diethylamino)methyl]-6-methoxy-7-quinolinylamine | 0.430 mmol, 111 mg | C(C)N(CC)CC=1C=NC2=CC(=C(C=C2C1)OC)N | C15H21N3O
reactant | triethylamine | 0.516 mmol, 0.0719 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4′-chloro-N-{3-[(diethylamino)methyl]-6-methoxy-7-quinolinyl}[1,1′-biphenyl]-4-carboxamide | 27.5 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NC1=C(C=C2C=C(C=NC2=C1)CN(CC)CC)OC | C28H28ClN3O2
